* C:\Users\rohit\Documents\fd-fnir\sim\Draft2.asc
R1 N002 N001 10k tol=0.1
XU1 N001 1V6 N002 3V3 0 TSV3x
C1 N002 N001 1p
D1 N001 3V3 D
C2 3V3 N001 0.5p
I1 3V3 N001 {I_PD}
V1 3V3 0 3.3
XU2 N003 N005 N004 3V3 0 TSV3x
R2 N004 N003 50k tol=0.1
V2 1V6 0 1.6
R3 N005 N002 1k
.model D D
.lib C:\Users\rohit\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.step param I_PD 1u 100u 10u
.lib C:\Users\rohit\Documents\fd-fnir\sim\en.tsv321_324_358.txt
.backanno
.end
